US07361671B2
To solution of 5,6-dichloronicotinic acid (21.46 g, 112 mmol) and 1,2-bis(diphenylphosphino)ethane dichloronickel(II) ((Ni(dppe)Cl2) (2.00 g, 3.6 mmol) in THF (60 mL, 1.9 M) is cooled to 0° C. and treated with ethyl magnesium chloride (2.8 M, 107 mL, 300 mmol) slowly via syringe with stirring under nitrogen. The reaction mixture is warmed to 55° C. for 3 h, cooled to 0° C. and acidified to pH 5 with 2 M HCl (100 mL). After concentrating in vacuo, the solution is reconstituted and extracted with ethyl acetate (2×200 mL), dried over Na2SO4, filtered and concentrated. The solvent removed in vacuo to provide crude 5-chloro-6-ethyl-nicotinic acid as a light brown glass (ESI-LCMS m/z calcd for C8H8ClNO2: 185.0; found 186.0 (M+1)+, which is used without further purification.

reactant | 5,6-dichloronicotinic acid | 112 mmol, 21.46 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | ethyl magnesium chloride | 300 mmol, 2.8 M, 107 mL | C(C)[Mg]Cl
reactant | HCl | 2 M, 100 mL | Cl | ClH
solvent | THF | 1.9 M, 60 mL | C1CCOC1 | C4H8O
catalyst | 1,2-bis(diphenylphosphino)ethane dichloronickel(II) | Cl[Ni]Cl.C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | 5-chloro-6-ethyl-nicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)CC | C8H8ClNO2
